US07470679B2
To a solution of ethyl 2-(7-amino-8-methyl-1-neopentyl-2-oxo-1,2,3,4-tetrahydroquinolin-3-yl)acetate (170 mg, 0.51 mmol) in carbon tetrachloride (4.5mL) was added acetic acid (0.5 mL) followed by isoamylnitrite (0.04 mL) and the reaction mixture was stirred for 2 h at room temperature. The reaction mixture was diluted with dichloromethane (40 mL), washed with aqueous NaHCO3 and dried. The solvent was removed and the crude product was dissolved in THF (15 mL) followed by addition of lithium hydroxide (43 mg, 1 mmol) and water (5 mL). After stirring for 12 h, the solvent was removed, acidified with 6 M HCl and extracted with ethyl acetate to give 2-(1-neopentyl-2-oxo-2,3,4,7-tetrahydro-1H-pyrazolo[3,4-h]quinolin-3-yl)acetic acid.

reactant | ethyl 2-(7-amino-8-methyl-1-neopentyl-2-oxo-1,2,3,4-tetrahydroquinolin-3-yl)acetate | 0.51 mmol, 170 mg | NC1=CC=C2CC(C(N(C2=C1C)CC(C)(C)C)=O)CC(=O)OCC | C19H28N2O3
reactant | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
reactant | isoamylnitrite | 0.04 mL | C(CC(C)C)ON=O | C5H11NO2
reactant | lithium hydroxide | 1 mmol, 43 mg | [OH-].[Li+]
solvent | carbon tetrachloride | 4.5mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | water | 5 mL | O | H2O
product | 2-(1-neopentyl-2-oxo-2,3,4,7-tetrahydro-1H-pyrazolo[3,4-h]quinolin-3-yl)acetic acid | C(C(C)(C)C)N1C(C(CC2=CC=C3C(=C12)C=NN3)CC(=O)O)=O | C17H21N3O3
